US07629342B2
Synthesis of 7,8-bis(4-chlorophenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one
The title compound was synthesized by reacting 6-chloro-7,8-bis(4-chlorophenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with TMSOK using the procedures described above. 1HNMR (DMSO, 400 Hz): 7.48 (2H, d), 7.38-7.7.42 (4H, m), 7.25 (2H, d). 13CNMR (DMSO, 400 Hz) 160.88, 145.91, 137.00, 135.11, 133.90, 132.94, 132.10, 131.07, 129.98, 128.00 127.13, 118.30(q).

reactant | 6-chloro-7,8-bis(4-chlorophenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C(=C(C=2N(N1)C(=NN2)C(F)(F)F)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C18H8Cl3F3N4
reactant | TMSOK | [Si](C)(C)(C)O[K]
product | 7,8-bis(4-chlorophenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(=NN2)C(F)(F)F)C2=CC=C(C=C2)Cl | C18H9Cl2F3N4O
